// Generated for: spectre
// Generated on: Feb  3 23:16:51 2020
// Design library name: AMPSE_tutorial
// Design cell name: tb_inv
// Design view name: schematic
simulator lang=spectre
global 0
parameters   wn = 9e-07 wp = 2e-07 
include "/home/qiaochuz/workarea_ee536a/Techfile_45nm.scs"

// Library name: AMPSE_tutorial
// Cell name: inv
// View name: schematic
subckt inv gnd in out vdd
    M0 (out in vdd vdd) pmos w=wp l=45n
    M1 (out in gnd gnd) nmos w=wn l=45n
ends inv
// End of subcircuit definition.

// Library name: AMPSE_tutorial
// Cell name: tb_inv
// View name: schematic
I4 (gnd _net0 net04 vdd) inv
I1 (gnd _net1 _net0 vdd) inv
I0 (gnd net2 _net1 vdd) inv
V0 (net2 0) vsource type=pulse val0=1 val1=0 delay=1n rise=50p fall=50p
V2 (gnd 0) vsource dc=0 type=dc
V1 (vdd 0) vsource dc=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=2n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub

simulator lang=spice
.MEAS TRAN delay TRIG V(_net1) VAL=0.5 RISE=1 TARG V(_net0) VAL=0.5 FALL=1
