// Generated for: spectre
// Generated on: Jun 18 15:34:01 2019
// Design library name: POSH
// Design cell name: tb_CML_INPUT_BUFFER_v1
// Design view name: schematic
simulator lang=spectre
global 0
parameters fclk=1.6G D2S_NMOS_WIDTH=560n D2S_NMOS_FINGER=5 \
    CML_BUFFER_WIDTH=1160n CML_BUFFER_FINGER=26 D2S_PMOS_WIDTH=600n \
    D2S_PMOS_FINGER=5 CLK_SW=1 VCM=0.5 c_pad=1p c_pcb=2p ind=1n \
    I_CML_REF=400u VDD=1
include "/shares/tfwu_techfile_mcphe404cns3/TSMC28HPCP/models/spectre/toplevel.scs" section=top_ss
include "/shares/tfwu_techfile_mcphe404cns3/TSMC28HPCP/IP/tcbn28hpcplusbwp12t30p140ulvt/TSMCHOME/digital/Back_End/spice/tcbn28hpcplusbwp12t30p140ulvt_170a/tcbn28hpcplusbwp12t30p140ulvt_170a.spi"

// Library name: POSH
// Cell name: CML_INPUT_BUFFER_v1
// View name: schematic
subckt CML_INPUT_BUFFER_v1 CLKN CLKP CML_BIAS CML_IN_N CML_IN_P CML_OUT_N \
        CML_OUT_P I_CML_REF OUT VCM VDD VSS
R8 (VDD CML_OUT_P VSS ) res lr=5u wr=2u multi=(5) m=1

R1 (VDD CML_OUT_N VSS ) res lr=5u wr=2u multi=(5) m=1

//Series configuration of R0
R0_1__dmy0  (CML_IN_P R0_1__dmy0 VSS ) res lr=6u wr=1u multi=(1) m=1
R0_2__dmy0  (R0_1__dmy0 R0_2__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R0_3__dmy0  (R0_2__dmy0 R0_3__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R0_4__dmy0  (R0_3__dmy0 R0_4__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R0_5__dmy0  (R0_4__dmy0 VCM VSS ) res lr=6u wr=1u multi=(1) m=1
//End of R0

R2 (CLKP net156 VSS ) res lr=2u wr=2u multi=(6) m=1

R4 (CLKP net156 VSS ) res lr=2u wr=2u multi=(6) m=1

R5 (net156 CLKN VSS ) res lr=2u wr=2u multi=(6) m=1

//Series configuration of R6
R6_1__dmy0  (VCM R6_1__dmy0 VSS ) res lr=6u wr=1u multi=(1) m=1
R6_2__dmy0  (R6_1__dmy0 R6_2__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R6_3__dmy0  (R6_2__dmy0 R6_3__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R6_4__dmy0  (R6_3__dmy0 R6_4__dmy0 VSS ) res lr=6u wr=1u multi=(1) \
        m=1
R6_5__dmy0  (R6_4__dmy0 CML_IN_N VSS ) res lr=6u wr=1u multi=(1) m=1
//End of R6

R3 (net156 CLKN VSS ) res lr=2u wr=2u multi=(6) m=1

    C4 (CLKP CML_IN_P) cap nr=80 lr=20u w=50n s=50n stm=1 spm=7 \
        multi=1
    C0 (CLKN CML_IN_N) cap nr=80 lr=20u w=50n s=50n stm=1 spm=7 \
        multi=1
    M6 (net161 I_CML_REF VSS VSS) nmos l=120.0n w=20u multi=1 \
        nf=10
    M5 (I_CML_REF I_CML_REF VSS VSS) nmos l=120.0n w=20u multi=1 \
        nf=10
    M4 (VSS I_CML_REF VSS VSS) nmos l=120.0n w=92.0u multi=1 nf=46 \
    M1 (V_CUR_MIR CML_OUT_P VSS VSS) nmos l=30n \
        w=D2S_NMOS_WIDTH*D2S_NMOS_FINGER multi=1 nf=D2S_NMOS_FINGER \
    M0 (OUT CML_OUT_N VSS VSS) nmos l=30n \
        w=D2S_NMOS_WIDTH*D2S_NMOS_FINGER multi=1 nf=D2S_NMOS_FINGER \
    M25 (CML_OUT_P CML_IN_P V_GND VSS) nmos l=30n \
        w=CML_BUFFER_WIDTH*CML_BUFFER_FINGER multi=1 nf=CML_BUFFER_FINGER \
    M12 (CML_OUT_N CML_IN_N V_GND VSS) nmos l=30n \
        w=CML_BUFFER_WIDTH*CML_BUFFER_FINGER multi=1 nf=CML_BUFFER_FINGER \
    M29 (V_GND CML_BIAS VSS VSS) nmos l=120.0n w=120.00000u \
        multi=1 nf=60
    M37 (CML_BIAS CML_BIAS VSS VSS) nmos l=120.0n w=20u multi=1 \
    M3 (VSS CML_BIAS VSS VSS) nmos l=120.0n w=52.0u multi=1 nf=26 \
    M9 (VDD net161 VDD VDD) pmos l=120.0n w=32.0u multi=1 nf=16 \
    M8 (net161 net161 VDD VDD) pmos l=120.0n w=20u multi=1 nf=10 \
    M7 (CML_BIAS net161 VDD VDD) pmos l=120.0n w=20u multi=1 nf=10 \
    M2 (V_CUR_MIR V_CUR_MIR VDD VDD) pmos l=30n \
        w=D2S_PMOS_WIDTH*D2S_PMOS_FINGER multi=1 nf=D2S_PMOS_FINGER \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M27 (OUT V_CUR_MIR VDD VDD) pmos l=30n \
        w=D2S_PMOS_WIDTH*D2S_PMOS_FINGER multi=1 nf=D2S_PMOS_FINGER \

ends CML_INPUT_BUFFER_v1
// End of subcircuit definition.

// Library name: POSH
// Cell name: tb_CML_INPUT_BUFFER_v1
// View name: schematic
V5 (CLK_N_SOURCE 0) vsource type=sine ampl=CLK_SW sinephase=180 freq=fclk
V3 (CLK_P_SOURCE 0) vsource type=sine ampl=CLK_SW sinephase=0 freq=fclk
V2 (VCM 0) vsource dc=VCM type=dc
V1 (VDD 0) vsource dc=VDD type=dc
V0 (VSS 0) vsource type=dc
I6 (0 I_CML_REF) isource dc=I_CML_REF type=dc
I0 (CLKN CLKP CML_BIAS CML_IN_N CML_IN_P CML_OUT_N CML_OUT_P I_CML_REF OUT \
        VCM VDD VSS) CML_INPUT_BUFFER_v1
C2 (CLKN 0) capacitor c=c_pad
C1 (net07 0) capacitor c=c_pcb
C0 (CLKP 0) capacitor c=c_pad
C34 (net08 0) capacitor c=c_pcb
R1 (net011 CLKN) resistor r=100.0m isnoisy=yes
R0 (CLK_N_SOURCE net07) resistor r=50 isnoisy=yes
R52 (net012 CLKP) resistor r=100.0m isnoisy=yes
R51 (CLK_P_SOURCE net08) resistor r=50 isnoisy=yes
L0 (net07 net011) inductor l=ind isnoisy=no
L3 (net08 net012) inductor l=ind isnoisy=no
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=85.0 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=200n errpreset=moderate noisefmax=100G noisefmin=1M \
    noiseseed=1 write="spectre.ic" writefinal="spectre.fc" annotate=status \
    maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save VCM CLKP CLKN CML_IN_P CML_BIAS CML_IN_N CML_OUT_P CML_OUT_N OUT \
    I_CML_REF CLK_N_SOURCE CLK_P_SOURCE V1:p 
saveOptions options save=all currents=selected
