simulator lang = spectre 
global 0  
parameters ibias=100u l=60n vbias=0.5 w=2u 
	M28 ( vout net6 VSS VSS )  ptmn65  l=l w=w*1 m=1  
	M0 ( net4 net4 VDD VDD )  ptmp65  l=l w=w*1 m=1  
	M33 ( vout net4 VDD VDD )  ptmp65  l=l w=w*1 m=1  
